US07820823B2
(3R,4R) and (3S,4S)-1-Benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester
To a solution of 2 g of 4-tert-butoxycarbonylamino-but-2-enoic acid ethyl ester (8.72 mmol) and 5.12 g N-[(pentyloxy)methyl]-N-[(trimethylsilyl)methyl]-benzene-methanamine (17.4 mmol) in 50 ml dichloromethane was added 10 micro-l. trifluoroacetic acid. The reaction was monitored by TLC. The reaction was complete after 10 min. The mixture was diluted with dichloromethane, washed with sat. sodium bicarbonate solution and brine, dried over Mg sulfate, filtered and the filtrate evaporated. The residue was purified by filtration over a short silica column, using a 7/3 hexane/ethyl acetate mixture as eluent.

reactant | 4-tert-butoxycarbonylamino-but-2-enoic acid ethyl ester | 8.72 mmol, 2 g | C(C)OC(C=CCNC(=O)OC(C)(C)C)=O | C11H19NO4
reactant | N-[(pentyloxy)methyl]-N-[(trimethylsilyl)methyl]-benzene-methanamine | 17.4 mmol, 5.12 g | C(CCCC)OCN(CC1=CC=CC=C1)C[Si](C)(C)C | C17H31NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3S,4S)-1-Benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)[C@@H]1CN(C[C@@H]1CNC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C20H30N2O4
